US05006542
A. Dimethyl[4-(2-bromoethyl)phenoxy]-(1,1,2-trimethylpropyl)silane
To a 0° C. solution of 19.7 g (75 mmol) in 350 mL of toluene was added dropwise over 5 minutes 3.8 mL (74 mmol) of bromine. This was stirred for 50 minutes at which time a solution of 21.0 g (75 mmol) of dimethyl [2-(hydroxy)ethylphenoxy] (1,1,2-trimethylpropyl) silane and 6.1 mL (75 mmol) of pyridine in 100 mL of toluene was added dropwise over 10 minutes. The reaction mixture was allowed to warm slowly to 18° C. over 4.3 hours. The mixture was cooled to 0° C. and diluted with 500 mL hexane. The solids were removed by filtration and the filtrate was concentrated in vacuo. The residue was diluted with 500 mL hexane, chilled and passed through a silica gel column. Elution with hexane gave 11.7 g of pure title A bromide.

reactant | bromine | 74 mmol, 3.8 mL | BrBr | Br2
reactant | dimethyl [2-(hydroxy)ethylphenoxy] (1,1,2-trimethylpropyl) silane | 75 mmol, 21.0 g | C[Si](C(C(C)C)(C)C)(OC1=C(C=CC=C1)CCO)C | C16H28O2Si
reactant | pyridine | 75 mmol, 6.1 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 500 mL | CCCCCC | C6H14
product | Dimethyl[4-(2-bromoethyl)phenoxy]-(1,1,2-trimethylpropyl)silane | C[Si](C(C(C)C)(C)C)(OC1=CC=C(C=C1)CCBr)C | C16H27BrOSi
